US07671080B2
1-({[5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carbonyl]amino}methyl)-cyclobutanecarboxylic acid ethyl ester was prepared from 1-aminomethyl-cyclobutanecarboxylic acid ethyl ester (262 mg, 1.65 mmol) and 5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (400 mg, 1.10 mmol) in the same manner as 5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (1-hydroxymethyl-cyclopentylmethyl)amide giving 1-({[5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carbonyl]amino}methyl)cyclobutanecarboxylic acid ethyl ester as a colourless gum (287 mg, 50%).

reactant | 1-aminomethyl-cyclobutanecarboxylic acid ethyl ester | 1.65 mmol, 262 mg | C(C)OC(=O)C1(CCC1)CN | C8H15NO2
reactant | 5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid | 1.10 mmol, 400 mg | C(#N)C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C18H11F3N2O3
reactant | 5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (1-hydroxymethyl-cyclopentylmethyl)amide | OCC1(CCCC1)CNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)OC(F)(F)F | C25H24F3N3O3
product | 1-({[5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carbonyl]amino}methyl)cyclobutanecarboxylic acid ethyl ester | 287 mg, 50% | C(C)OC(=O)C1(CCC1)CNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)OC(F)(F)F | C26H24F3N3O4
